US04032676
N-(5-carboxy-2,3,4,5-tetrahydroxy-pentyl)-L-(+)-glutamic acid
As starting material D-glucuronic acid and L-(+)-glutamic acid were used. The reductive amination was carried out using Raney nickel as a catalyst and heating for 2 hours to 50° C. and for 4 hours to 70° C. The product obtained had a melting point of 90° C. (with sintering) an RF -value of 0.70 (determined on DC-finished plates of silica gel G (Merck) with a transporting liquid made up of 70 parts by volume of methanol and 30 parts by volume of water).

reactant | D-glucuronic acid | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)C(=O)O | C6H10O7
reactant | L-(+)-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | O | H2O
product | N-(5-carboxy-2,3,4,5-tetrahydroxy-pentyl)-L-(+)-glutamic acid | C(=O)(O)C(C(C(C(CN[C@@H](CCC(=O)O)C(=O)O)O)O)O)O | C11H19NO10
